US05843942
6--Chloronicotinic acid (100 g, 0.63 mol) was treated with ethylamine (70% in water, 500 ml). The reaction was sealed in an autoclave and heated to 170° C. for 6 hours. The reaction mixture was evaporated, partially neutralised with concentrated HCl and the pH adjusted to pH5 with galcial acetic acid. The solid product was filtered off and dried in vacuo for 18 hours to give 6-(ethylamino)nicotinic acid (87.8 g, 84%).

reactant | 6--Chloronicotinic acid | 0.63 mol, 100 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | ethylamine | 500 ml | C(C)N | C2H7N
product | 6-(ethylamino)nicotinic acid | 87.8 g, 84% | C(C)NC1=NC=C(C(=O)O)C=C1 | C8H10N2O2
